US05550122
c) 2-Chloro-5-nitro-N-(3-hydroxytol-4-yl)-3-pyridinecarboxamide
A mixture of 2-chloro-5-nitronicotinic acid (6.1 g, 0.03 mol) and thionyl chloride (15 ml) was refluxed for 3 hours. The solvent was removed in vacuo and the acid chloride was dissolved in tetrahydrofuran (150 ml). The resulting solution was slowly added to a solution of 6-amino-m-cresol (4 g, 0.03 mol), N,N-diisopropylethylamine (7 ml, 0.04 mol), and tetrahydrofuran (150 ml) at 0° C. under argon, and the resulting solution stirred for 2 hours. The mixture was then diluted with water and the product was extracted with ether, washed with a saturated sodium chloride solution, dried (anhydrous magnesium sulfate), and concentrated to half volume. The gummy orange crude product was collected and stirred with methylene chloride (50 ml) for 30 min. The precipitate was washed with methylene chloride and air dried to give 6.3 g (68% of theory) of pure product as a bright orange powder.

reactant | 2-chloro-5-nitronicotinic acid | 0.03 mol, 6.1 g | ClC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H3ClN2O4
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-amino-m-cresol | 0.03 mol, 4 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | N,N-diisopropylethylamine | 0.04 mol, 7 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Chloro-5-nitro-N-(3-hydroxytol-4-yl)-3-pyridinecarboxamide | ClC1=NC=C(C=C1C(=O)NC1=C(C=C(C=C1)C)O)[N+](=O)[O-] | C13H10ClN3O4
